US07319103B2
4-(5,6,7,8-Tetrahydro-pyrazolo[5,1-b]quinazolin-9-yl)-phenol
Using the method described for the preparation of 4-(6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-yl)-phenol, (4-benzyloxy-phenyl)-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline and hydrogen in the presence of 10% Pd/C provided the title compound.

reactant | 4-(6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-yl)-phenol | N1=CC=C2N=C3C(=C(N12)C1=CC=C(C=C1)O)CCCCC3 | C17H17N3O
reactant | (4-benzyloxy-phenyl)-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN2C(N=C3CCCCC3=C2)=C1 | C23H21N3O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 4-(5,6,7,8-Tetrahydro-pyrazolo[5,1-b]quinazolin-9-yl)-phenol | N1=CC=C2N=C3CCCCC3=C(N21)C2=CC=C(C=C2)O | C16H15N3O
